US06288096B1
1 ml trifluoroacetic acid was added to a solution of 0.214 g (0.33 mmole) 3-triphenylmethyl-5-([4-[2-(4-methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)oxazolidine-2,4-dione in 10 ml dichloromethane. After stirring for 45 minutes at room temperature 20 ml more of dichloromethane was added, the reaction mixure was washed twice with water, dried (sodium sulfate) and the solvent was evaporated in vacuo. The crude product was purified by chromatography on silica gel using heptane:ethyl acetate:acetic acid (10:10:1) as eluent to give 0.118 g (yield 88%) of 5-([4-[2-(4-methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)oxazolidine-2,4-dione.

reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-triphenylmethyl-5-([4-[2-(4-methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)oxazolidine-2,4-dione | 0.33 mmole, 0.214 g | C1(=CC=CC=C1)C(N1C(OC(C1=O)CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)OS(=O)(=O)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H33NO7S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-([4-[2-(4-methanesulfonyloxyphenyl)ethoxy]phenyl]methyl)oxazolidine-2,4-dione | 0.118 g, yield 88% | CS(=O)(=O)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(O1)=O)=O | C19H19NO7S
